US09085562B2
e. Preparation of 6-methyl-4-(pyrimidin-5-yloxy)picolinic acid
6-methyl-4-(pyrimidin-5-yloxy)picolinonitrile (4.31 g, 20.3 mmol, 1.00 eq) was dissolved in dioxane (90 mL), and 2N NaOH (45 mL) was added. The mixture was refluxed for 18 h and after cooling the reaction was neutralized with 2N HCl (45 mL). The water and solvent were removed in vacuo and the crude reaction was dissolved in 10% MeOH/CH2Cl2. The undissolved salt was filtered off and the solvents were removed in vacuo to afford 4.65 g (99%) of the title compound as a white solid which was used without further purification.

reactant | 6-methyl-4-(pyrimidin-5-yloxy)picolinonitrile | 20.3 mmol, 4.31 g, 1.00 eq | CC1=CC(=CC(=N1)C#N)OC=1C=NC=NC1 | C11H8N4O
reactant | NaOH | 2N, 45 mL | [OH-].[Na+]
reactant | HCl | 2N, 45 mL | Cl | ClH
reactant | dioxane | 90 mL | O1CCOCC1 | C4H8O2
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 6-methyl-4-(pyrimidin-5-yloxy)picolinic acid | 4.65 g, 99% | CC1=CC(=CC(=N1)C(=O)O)OC=1C=NC=NC1 | C11H9N3O3
